US07498460B2
Methyl 3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)-4-(3-{4-[(4-phenoxybenzyl)oxy]phenyl}propoxy)benzoate is prepared in analogy to the process described in Example 34 from methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate and 1-(chloromethyl)-4-phenoxybenzene.

reactant | methyl 4-[3-(4-hydroxyphenyl)propoxy]-3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)benzoate | OC1=CC=C(C=C1)CCCOC1=C(C=C(C(=O)OC)C=C1)C(=O)NC1CC(CCC1)C(=O)OC | C26H31NO7
reactant | 1-(chloromethyl)-4-phenoxybenzene | ClCC1=CC=C(C=C1)OC1=CC=CC=C1 | C13H11ClO
product | Methyl 3-({[3-(methoxycarbonyl)cyclohexyl]amino}carbonyl)-4-(3-{4-[(4-phenoxybenzyl)oxy]phenyl}propoxy)benzoate | COC(=O)C1CC(CCC1)NC(=O)C=1C=C(C(=O)OC)C=CC1OCCCC1=CC=C(C=C1)OCC1=CC=C(C=C1)OC1=CC=CC=C1 | C39H41NO8
